Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
SI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with PMH of anxiety, depression, HTN and ETOH use
disorder presents with suicidal ideation.

The patient was recently admitted to the ___ last
week for suicidal ideation. He was discharged on ___ and was
unable to pick up any of his medications. He expresses regret 
for
not signing papers that would have gotten him an inpatient psych
admission. 

Patient reports that this morning he couldn't take "it" anymore
and was having worsening suicidal ideation. He says he has no
support in his life and everything is going wrong.  He reports
that several days ago he cut both of his wrists because he did
not want to live anymore. 

He has a long history of ETOH abuse. He drank a pint of vodka
this morning as well as a beer. He reports drinking as much as
possible on the average day to get rid of voices. He has a
history of withdrawing from ETOH, but no seizures. His last
period of sobriety was ___ ago when he was in treatment and was
sober for ___ weeks. 

In regards to his other substance abuse he reports smoking crack
cocaine, marijuana and using intranasal cocaine. His most recent
drug use was yesterday when he smoked marijuana. He has injected
drugs once in the past but this was ___ years ago.

He reports last week he fell down stairs and was taken to the
hospital where he had a negative head CT and had a suture placed
in his lower lip. He has had a headache since then. He was 
unable
to pick up his medications after his discharge. 

He reports no history of endocarditis and no long term 
antibiotic
use, stating his only antibiotic use was for pneumonia. He 
denies
fevers, chills, abdominal pain or urinary symptoms
 
Past Medical History:
Depression
Anxiety
HTN
Chronic knee pain
Chronic back pain 
 
Social History:
___
Family History:
Brother with schizophrenia 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 003)
    Temp: 98.3 (Tm 98.3), BP: 130/86, HR: 92, RR: 18, O2 sat:
98%, O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: healing lip laceration, PERRL, EOMI. Sclera anicteric and
without injection. dry mucus membranes. poor dentition 
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
PSYCH: +SI with plan to hang himself, +auditory hallucinations
telling him to commit suicide  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM: 
VS:24 HR Data (last updated ___ @ 754)
    Temp: 98.6 (Tm 98.6), BP: 115/75 (105-140/69-90), HR: 64
(57-75), RR: 16 (___), O2 sat: 96% (96-100), O2 delivery: Ra  
GENERAL: Seen lying in bed, sleeping but easily arousable.
Depressed affect. Responding to questions appropriately. In no
acute distress.
HEENT: healing lip laceration, PERRL, EOMI. No ___ spots. 
Sclera
anicteric and without injection. MMM. poor dentition. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. No ___ lesions ___ nodes
SKIN: Warm. Cap refill <2s. No rash.
PSYCH: +SI with plan to hang himself, +auditory hallucinations
telling him to commit suicide  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

 
Pertinent Results:
ADMISSION LABS:
___ 01:45PM BLOOD WBC-14.0* RBC-4.10* Hgb-11.7* Hct-37.0* 
MCV-90 MCH-28.5 MCHC-31.6* RDW-13.0 RDWSD-42.2 Plt ___
___ 01:45PM BLOOD Neuts-70.4 Lymphs-15.7* Monos-11.4 
Eos-1.5 Baso-0.4 Im ___ AbsNeut-9.87* AbsLymp-2.21 
AbsMono-1.60* AbsEos-0.21 AbsBaso-0.06
___ 01:45PM BLOOD Plt ___
___ 01:45PM BLOOD Glucose-84 UreaN-21* Creat-0.9 Na-143 
K-3.9 Cl-105 HCO3-20* AnGap-18
___ 01:45PM BLOOD Calcium-9.7 Phos-3.5 Mg-2.0
___ 01:45PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 01:45PM BLOOD GreenHd-HOLD
___ 06:36PM BLOOD Lactate-3.5*

DISCHARGE LABS:
___ 05:30AM BLOOD WBC-6.0 RBC-3.77* Hgb-10.7* Hct-33.4* 
MCV-89 MCH-28.4 MCHC-32.0 RDW-12.8 RDWSD-41.4 Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD ___ PTT-27.5 ___
___ 05:30AM BLOOD Glucose-98 UreaN-14 Creat-0.9 Na-142 
K-3.8 Cl-106 HCO3-23 AnGap-13
___ 05:30AM BLOOD Phos-3.1 Mg-1.8
___ 05:30AM BLOOD
___ 09:13AM BLOOD calTIBC-296 Ferritn-299 TRF-228
___ 12:44PM BLOOD Lactate-1.3

MICROBIOLOGY:
___ 1:47 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. No valvular pathology or pathologic flow identified. 
No 2D
echocardiographic evidence for endocarditis.

FINDINGS:  
  
Heart is normal in size.  Mediastinal and hilar contours appear 
within normal 
limits.  There is no pleural effusion or pneumothorax.  
Projecting over the 
courses of the right clavicle, anteiror right first rib and 
right upper lobe 
is a small nodular focus of uncertain etiology, visible only on 
the AP view.  
This may be due to a confluence of shadows, benign sclerosis in 
one of the 
overlapping bony structures, but possibility of a pulmonary 
nodule should be 
excluded.  Otherwise, lung fields appear clear. 
  
IMPRESSION:  
  
1.  No evidence of acute cardiopulmonary disease. 
  
2. Possibility of pulmonary nodule at the right lung apex. 
  
RECOMMENDATION(S):  Evaluation with low-dose noncontrast chest 
CT is 
recommended when clinically appropriate. 

 
Brief Hospital Course:
PATIENT SUMMARY: 
==================== 
Mr. ___ is a ___ yo M with PMH of anxiety, depression, HTN and 
ETOH use disorder presented with suicidal ideation admitted to 
medicine for elevated temperature and tachycardia. 
==================== 

ACUTE ISSUES: 
==================== 
#Suicidal ideation
#Major Depressive Disorder
From history has had history of suicide attempts who presented 
with current active suicidal ideation. Placed on ___ in 
the ED with the intention for inpatient psych admission 
following medical clearance. During his admission, he continued 
to endorse SI ideation he though this was contingent on if he 
was to be discharged. He expressed a plan that he would hang 
himself if he were to leave and had a rope somewhere. He also 
expressed to the primary medical team desire to hurt others "who 
have wronged me in the past" but did not specify to whom he was 
referring. He expressed a desire to seek help with inpatient 
psych. He was evaluated by psych, 1:1 sitter was decided to no 
longer be needed as he was not a threat so long as he stayed 
inpatiet. Points of struggle include EtOH use and lack of 
housing. If note, he also shared with the primary medicine team 
that he has been hearing voices for years which told him to hurt 
himself and make negative statements about him.

#EtOH use disorder
#EtOH withdrawal
Reports significant history of ETOH use with no history of 
withdrawal seizures. Stated that he drinks ___ of vodka per 
day. Last drink was approximately 24 hours ago prior to 
admission. He was placed on CIWA which he scored on for 48 
hours. He was given multivitamins, folate and thiamine. Social 
work was consulted.

#polysubstance abuse
Patient with history of cocaine and marijuana use. Denied recent 
history of cocaine use, however UDS positive in the ED. Denied 
history of opioid use.

#Tachycardia (resolved)
#Lactic Acidosis (resolved)
Patient presented with temperature (100.0) and tachycardia with 
concern in the ED for endocarditis. He has no history of 
endocarditis and no risk factors for endocarditis. He did have 
an elevated lactate that returned to normal with fluid, it was 
thought to be related to poor PO intake and EtOH intake. No 
findings on physical exam suggestive of endocarditis (no murmur, 
___ nodes, ___ lesions, ___ spots) and no risk factors 
noted in history (IVDU ___ years ago is too remote). Tachycardia 
may be component of EtOH withdrawal (see problem listed). He 
never had any findings suggestive infection. Blood cultures 
remained negative. Hepatitis panel was unremarkable.

#Anemia 
Suspect chronic in setting of marrow suppression from ETOH use
and poor PO intake. No indications of active bleed. Patient 
never required any transfusions. 

==================== 
CHRONIC ISSUES:

#HTN
Held home propranolol given he was normotensive. 

==================== 
TRANSITIONAL ISSUES: 
==================== 
[ ] Patient was found to have a questionable pulmonary nodule, 
will need a follow-up CT scan to further evaluate

EtOH Withdrawal:
[ ] Patient required multiple doses of diazepam for withdrawal. 
Last dose on 0500 ___, possibly still withdrawing at time of 
transfer. He did not have any complications such as seizures or 
delirium tremors.
[ ] Patient is currently under ___
[ ] Endorses active SI only if discharged home

Home Medications:
[ ] All home behavioral medications were held at time of 
admission per psych recommendation. Please carefully titrate 
patient back to home medications or new medications prior to 
discharge from ___ rehab. 

- New Meds: None
- Stopped/Held Meds: Propranolol 80mg QD, gabapentin 800mg TID, 
mirtazapine 15mg QHS, naproxen 500mg BID, prazosin 5mg QD, 
topiramate 50mg QD, venlafaxine 75mg QD
- Changed Meds: None

# CODE: Full Code
# CONTACT: None
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 75 mg PO DAILY 
2. Topiramate (Topamax) 50 mg PO DAILY 
3. Propranolol LA 80 mg PO DAILY 
4. Prazosin 5 mg PO DAILY 
5. Naproxen 500 mg PO Q12H 
6. Mirtazapine 15 mg PO QHS 
7. Gabapentin 800 mg PO TID 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnosis:
===================
Major Depression Disorder
Suicidal Ideation

Secondary Diagnosis:
=====================
Alcohol Withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
MEDICINE Discharge Worksheet  
================================================  
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for alcohol withdrawal
 
What was done for me while I was in the hospital?  
- You received medications to treat your symptoms of withdrawal
- You talked to psychiatry who recommended for you to be 
admitted for further management of your depression

What should I do when I leave the hospital?  
- Follow-up with your PCP ___ 2 weeks
- Continue to work with psychiatry to help work on your 
depression
- Come back to the ER or call ___ if you are having more 
feelings of wanting to harm yourself.
 
Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___